US07714009B2
1-(2-Hydroxy-3-nitrophenyl)-3-mesitylthiourea
To a mixture containing 0.10 g (0.65 mmol) of 2-amino-6-nitrophenol and 0.14 g (1.3 mmol) of sodium carbonate in ethanol was added 0.14 g (0.78 mmol) of 2-isothiocyanato-1,3,5-trimethylbenzene. The reaction was heated at reflux overnight. The reaction was cooled to room temperature, filtered and concentrated under reduced pressure. Purification of the residue via Biotage chromatography eluting with 20% ethyl acetate/dichloromethane gave 0.17 g (80%) of product.

reactant | 2-amino-6-nitrophenol | 0.65 mmol, 0.10 g | NC1=C(C(=CC=C1)[N+](=O)[O-])O | C6H6N2O3
reactant | sodium carbonate | 1.3 mmol, 0.14 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-isothiocyanato-1,3,5-trimethylbenzene | 0.78 mmol, 0.14 g | N(=C=S)C1=C(C=C(C=C1C)C)C | C10H11NS
solvent | ethanol | C(C)O | C2H6O
product | 1-(2-Hydroxy-3-nitrophenyl)-3-mesitylthiourea | 0.17 g, 80% | OC1=C(C=CC=C1[N+](=O)[O-])NC(=S)NC1=C(C=C(C=C1C)C)C | C16H17N3O3S
